US09062059B2
trans ethyl 2-(pyridin-2-yl)cyclopropanecarboxylate (A-1-trans)
A solution of 2-vinylpyridine (2 g, 19.02 mmol) in toluene (40 mL) was treated with ethyl diazoacetate (1.973 ml, 19.02 mmol) and stirred at reflux overnight. The mixture was concentrated in vacuo and the residue was purified by gradient elution on silica gel (0 to 50% EtOAc in hexanes) to elute peak 1 (A-1-trans) (1.6 g, 44%), then the solvent gradient was increased to 100% EtOAc to elute peak 2 (A-2-cis). (914 mg, 25%), both as yellow oils. Enantiomers of A-1-trans can be resolved by chiral preparative supercritical fluid chromatography (SFC) (3.0 cm i.d.×25 cm ChiralTech IC, 7% EtOH/CO2, 70 mL/min) and analyzed by chiral analytical SFC (4.6 mm i.d.×25 cm ChiralTech IC, 7% EtOH/CO2, 2.4 mL/min) ent1=3.6 min, ent2=4.1 min to give the title compound. 1H NMR δ (500 MHz, CDCl3): 8.44 (m, 1H), 7.56 (td, J=7.6, 1.7 Hz, 1H), 7.22 (dd, J=7.8, 1.0 Hz, 1H), 7.08 (ddd, J=7.6, 4.9, 1.2 Hz, 1H), 4.17 (q, J=7.3 Hz, 2H), 2.58 (ddd, J=10.0, 6.1, 3.9 Hz, 1H), 2.25 (ddd, J=9.5, 5.6, 3.9 Hz, 1H), 1.61, (m, 2H), 1.28 (t, J=7.1 Hz, 3H). LRMS (ES) calculated M+H for C11H13NO2S: 192.2. Found: 192.1.

reactant | 2-vinylpyridine | 19.02 mmol, 2 g | C(=C)C1=NC=CC=C1 | C7H7N
reactant | ethyl diazoacetate | 19.02 mmol, 1.973 ml | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | trans ethyl 2-(pyridin-2-yl)cyclopropanecarboxylate | N1=C(C=CC=C1)[C@H]1[C@@H](C1)C(=O)OCC | C11H13NO2
